US05527818
Preparation of 3-(2,4,6-trimethylphenoxysulfonyl)-1,2,4-triazole
4.1 g of 2,4,6-trimethylphenol was dissolved in 15 ml of dichloromethane, and 4.2 ml of triethylamine was added while stirring the solution. Further, 4.6 g of 3-chlorosulfonyl-1,2,4-triazole was gradually added while being cooled with ice and stirred. Then, the solution was stirred at room temperature for 14 hours. After that, 2N hydrochloric acid was added to separate the components. The organic layer was washed with water, and then it was dried with magnesium sulfate. Then, the solvent was removed by distillation, so that coarse crystals were obtained. The coarse crystals were recrystallized from n-hexane/ethyl acetate, so that 3.0 g of the titled compound was obtained.

reactant | 2,4,6-trimethylphenol | 4.1 g | CC1=C(C(=CC(=C1)C)C)O | C9H12O
reactant | triethylamine | 4.2 ml | C(C)N(CC)CC | C6H15N
reactant | 3-chlorosulfonyl-1,2,4-triazole | 4.6 g | ClS(=O)(=O)C1=NNC=N1 | C2H2ClN3O2S
reactant | hydrochloric acid | 2N | Cl | ClH
solvent | dichloromethane | 15 ml | ClCCl | CH2Cl2
product | 3-(2,4,6-trimethylphenoxysulfonyl)-1,2,4-triazole | CC1=C(OS(=O)(=O)C2=NNC=N2)C(=CC(=C1)C)C | C11H13N3O3S
